Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ciprofloxacin / OxyContin / Celebrex / Lamictal / Vicodin / 
tramadol / venlafaxine
 
Attending: ___.
 
Chief Complaint:
Altered Mental Status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a PMH of HTN, HLD, DCIS, chronic back pain who 
presented to the ED with fever and ? of brief confusion. The 
patient is a ___ at ___.  Her assistant had felt her 
forehead  and thought she felt warm so took her tempearture.  
She was also noted to be confused- talking about swallowing a 
picture in ___.  

The patient's main complaint is back pain.  She has a history of 
spinal stenosis and has previously had spine surgery for her 
pain.  She went to see her Spine doctor this week as her pain 
was getting so bad.  She started using Voltaren cream on her 
back.  She has had no problems walking, no weakness or numbness 
in her legs.  She notes that she is chronically incontinent of 
urine and that this is not a new problem.  She has not had any 
burning, frequency or hematuria.  She denies having cough or 
SOB.  She has had no headaches, N/V.  No diarrhea or abdominal 
pain.  

Initial vitals in the ED: 101.2 90 144/62 18 96%. UA with few 
Bact, sm Leuk est, 18 WBCs. nl Chem 7. Nl Lactate. nl CBC. nl 
LFTs. CXR showed no acute cardiopulmonary process. UCx pending. 
Pt was treated with CTX for presumed UTI. 

On the floor, the patient was pleasant, oriented to person, 
place and time without any evidence of inattention or confusion. 
 She denies lightheadedness or dizziness and again complains 
about her back pain.  The only other symptoms she notes is a 
sore throat when swallowing but she cannot say how long this has 
been going on for.
 
Past Medical History:
DCIS s/p resection
HTN
HYPERLIPIDEMIA
DEPRESSION
Spinal Stenosis
Chronic Low Back Pain
hysterectomy for fibroids
Bilateral Total Knee Replacement
Bilateral Total Hip Replacement
 
Social History:
___
Family History:
mother diabetes cad
father lung ca
brother leukemia
brother throat ca
sister died of copd, htn, cad

 
Physical Exam:
ADMISSION EXAM:
==================================
Vitals-  97.9  99/59  63  20  95%RA
General:  pleasant female, NAD, appears stated age
HEENT: Anicteric, EOMI, MMM, O/P clear
Neck: supple
CV: RRR, no m/r/g
Lungs: faint crackles at left base, otherwise clear 
Abdomen: Soft, nontender, nondistended.  Patient notes urge to 
urinate with suprapubic palpation
GU: no Foley
Ext: Trace edema, warm, well perfused 
Neuro: A&Ox3, CN II-XII grossly intact, ___ strength bilateral 
lower and upper extremities.  
Skin:  no rashes or lesions noted, midline lumbar scar well 
healed

DISCHARGE EXAM:
==================================
Vitals-  99.3  147/54 (99-172/54-65) 64  18  96%RA
8hr I/0 O/800 + large BM
General:  pleasant female, NAD, appears stated age, sleeping 
comfortably
HEENT: Anicteric, EOMI, MMM, O/P with mild hyperemia
Neck: supple, no LAD or masses appreciated
CV: RRR, no m/r/g
Lungs: CTAB, no w/r/r
Abdomen: + NABS, soft, mild ttp at suprapubic area, nondistended
GU: no Foley
Ext: Trace edema, warm, well perfused 
Neuro: A&Ox3, CN II-XII grossly intact, ___ strength bilateral 
lower and upper extremities.  
Skin:  no rashes or lesions noted, midline lumbar scar well 
healed

 
Pertinent Results:
ADMISSION LABS:
==================================
___ 02:20AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 LEUK-SM 

___ 02:20AM URINE  RBC-3* WBC-18* BACTERIA-FEW YEAST-NONE 
EPI-0
___ 02:20AM URINE  HYALINE-7*
___ 02:20AM URINE  MUCOUS-OCC
___ 01:12AM   LACTATE-1.1
___ 01:00AM   GLUCOSE-116* UREA N-13 CREAT-1.1 SODIUM-137 
POTASSIUM-3.9 CHLORIDE-102 TOTAL CO2-22 ANION GAP-17
___ 01:00AM   ALT(SGPT)-13 AST(SGOT)-25 ALK PHOS-69 TOT 
BILI-0.3
___ 01:00AM   LIPASE-15
___ 01:00AM   ALBUMIN-4.2
___ 01:00AM   WBC-6.2 RBC-3.97* HGB-12.6 HCT-39.0 MCV-98 
MCH-31.8 MCHC-32.4 RDW-12.2
___ 01:00AM   NEUTS-67.1 ___ MONOS-5.8 EOS-0.6 
BASOS-0.6
___ 01:00AM   PLT COUNT-155
___ 01:00AM   ___ PTT-30.6 ___

DISCHARGE LABS:
==================================
___ 05:26AM BLOOD WBC-3.6* RBC-3.80* Hgb-12.1 Hct-37.6 
MCV-99* MCH-31.8 MCHC-32.1 RDW-12.2 Plt ___
___ 05:26AM BLOOD Glucose-77 UreaN-13 Creat-1.0 Na-140 
K-3.9 Cl-106 HCO3-23 AnGap-15

MICROBIOLOGY:
===================================
 URINE CULTURE (Preliminary): 
      GRAM NEGATIVE ROD(S).    >100,000 ORGANISMS/ML.. 
 R/O Beta Strep Group A (Final ___: 
      NO BETA STREPTOCOCCUS GROUP A FOUND. 

IMAGING:
====================================
CXR ___ 
FRONTAL AND LATERAL VIEWS OF THE CHEST:  The lungs are clear 
without focal opacity, pulmonary edema, pleural effusion or 
pneumothorax.  The aortic knob is calcified.  The heart size is 
top normal. 
IMPRESSION:  No acute cardiopulmonary process. 

 
Brief Hospital Course:
Ms. ___ is an ___ with HTN/HLD presents with brief episode 
of altered mental status, UA equivocally concerning for UTI. 

ACTIVE ISSUES:
==============================
# Altered Mental Status:  Thought to be delirium in setting of 
infection (see below).  Patient has no history of seizures and 
no new medication changes that might predispose her to seizure 
and did not appear to be post ictal.  Low concern for TIA given 
pt without weakness or slurred speech.  On arrival to the ED and 
on the floor, patient's mental status had returned to baseline 
(a&ox3) and remained at baseline for the entirety of the 
admission and on discharge.  She had additionally noted sore 
throat and rapid strep was sent which was subsequently negative. 
 Urine culture preliminarily grew GNRs and patient was 
empirically treated for UTI.  

# Hypotension: mild, resolved with fluids.  

# Urinary Tract Infection: Patient with fever on admission with 
very nonfocal symptoms.  Incontinence is baseline, UA was 
equivocal but patient did note suprapubic tenderness on exam.  
She was empirically started on Ceftriaxone in the ED and 
subsequently transitioned to oral Bactrim on the floor.  She 
additionally was given fluids as above.  Urine culture was sent 
and preliminarily growing GNRs.  

# Sore throat:  Patient noted some symptoms concerning for a 
pharyngitis, had cough, hyperemia on exam without exudates or 
significant lymphadenopathy.  Given febrile illness at 
presentation and patient's altered mental status, throat swab 
was sent to rule out Group A strep which was negative.  Thought 
to be viral pharyngitis and no further treatment was needed. 

CHRONIC ISSUES:
================================
# HTN: Hypotension on admission which resolved after fluid 
resuscitation.  She was restarted on her home dose of 
Lisinopril.

# HLD: Continued home fish oil, simvastatin.

# Spinal Stenosis/Chronic low back pain:  Patient on Gabapentin 
as outpatient, was dosed renally in house for concern that it 
was contributing to her confusion.  She was discharged on 
renally dosed Gabapentin.  

# Anxiety: Ativan held throughout admission given altered mental 
status. 

TRANSITIONAL ISSUES:
================================
- Per patient's renal function, renally dosed Gabapentin is 
300mg q12hrs, if patient is not tolerating well can uptitrate 
back to TID.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO TID 
2. Lisinopril 40 mg PO DAILY 
3. Lorazepam 1 mg PO TID 
4. Omeprazole 20 mg PO DAILY 
5. Simvastatin 20 mg PO DAILY 
6. Acetaminophen 650 mg PO Q6H:PRN pain 
7. Aspirin 81 mg PO DAILY 
8. Cyanocobalamin ___ mcg PO DAILY 
9. Docusate Sodium 100 mg PO BID 
10. Fish Oil (Omega 3) 1000 mg PO DAILY 
11. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Cyanocobalamin ___ mcg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Fish Oil (Omega 3) 1000 mg PO DAILY 
6. Gabapentin 300 mg PO Q12H 
7. Lisinopril 40 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Omeprazole 20 mg PO DAILY 
10. Simvastatin 20 mg PO DAILY 
11. Lorazepam 1 mg PO TID 
12. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 3 Days 

 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*4 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: UTI
Secondary: HTN 
           

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure participating in your care at ___ 
___.  You were admitted because you had 
fevers and were confused.  A urine sample showed that you had an 
infection in your bladder which was likely the cause of your 
fever and confusion.  Please continue to take the antibiotics as 
prescribed to end on the evening of ___.  

We recommend that you follow up with your PCP ___ 
___ weeks of leaving the hospital as well as the appointments 
listed below.

We wish you the best.

Sincerely, 
Your ___ Team
 
Followup Instructions:
___